US04621094
To a cold (-70°) solution of 2-bromo-6-(1-(4-chlorophenyl)-3-dimethylaminopropyl)pyridine (1.44 g) under nitrogen in dry tetrahydrofuran (50 mL) was added with stirring a solution of n-butyllithium (2.4 mL, 1.7M in hexane). After an additional 5 min at -70°, dry dimethylformamide (1.5 mL) was added dropwise during 2 min. The solution was allowed to warm and then quenched with water (5 mL). The solvents were removed under reduced pressure and the residue was dissolved in methylene chloride (50 mL). This solution was extracted with water (3×25 mL), dried (Na2SO4), and concentrated to give crude 6-(1-(4-chlorophenyl)-3-dimethylaminopropyl)2-pyridine carboxaldehyde (formyl proton δ 10.05, 60 MHz, CDCl3) which was chromatographed on reverse phase (C18, Waters Prep 500, 60:40/acetonitrile:water, K1 =6.3 (C18 ; 70:30/acetonitrile:water).

reactant | 2-bromo-6-(1-(4-chlorophenyl)-3-dimethylaminopropyl)pyridine | 1.44 g | BrC1=NC(=CC=C1)C(CCN(C)C)C1=CC=C(C=C1)Cl | C16H18BrClN2
reactant | n-butyllithium | 1.7M, 2.4 mL | C(CCC)[Li]
reactant | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 6-(1-(4-chlorophenyl)-3-dimethylaminopropyl)2-pyridine carboxaldehyde | ClC1=CC=C(C=C1)C(CCN(C)C)C1=CC=CC(=N1)C=O | C17H19ClN2O
